US08604062B2
{6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone
To a solution of 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (60 mg, 0.2 mmol) in DMF (300 μL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (71 mg, 0.22 mmol), N,N-diisopropyl ethyl amine (171 μL, 1.0 mmol) and morpholine (0.22 mmol). The resulting reaction mixture was stirred for 1 h at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (10 mg, 13%) which was obtained as a white solid. MS: m/e=398.3 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.2 mmol, 60 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.22 mmol, 71 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.0 mmol, 171 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | morpholine | 0.22 mmol | N1CCOCC1 | C4H9NO
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | {6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone | 10 mg, 13% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCOCC1)C | C21H20FN3O4
